US07531532B2
Pyrrolidine-1-carboxylic acid {4-[3-fluoro-4-(3-phenylacetylthioureido)phenoxy]pyridin-2-yl}amide
To a solution of 2-phenylacetyl chloride (0.054 ml, 0.43 mmol) in acetonitrile (4.3 ml) was added potassium thiocyanate (83 mg) at room temperature, followed by stirring under a nitrogen atmosphere at 60° C. for 1.5 hrs. The reaction mixture was cooled in an ice bath, and then a solution of pyrrolidine-1-carboxylic acid [4-(4-amino-3-fluorophenoxy)pyridin-2-yl]amide (90 mg) in acetonitrile (4.0 ml) was added thereto, followed by warming the reaction mixture to room temperature and stirring for 3 hrs. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:1 to 1:2, then ethyl acetate). Fractions containing the target compound were concentrated to give a solid, which was suspended in diethyl ether. The solid was filtered off, washed with diethyl ether, and dried under aeration to provide the titled compound (18 mg, 13%) as colorless powder.

reactant | 2-phenylacetyl chloride | 0.43 mmol, 0.054 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | potassium thiocyanate | 83 mg | [S-]C#N.[K+]
reactant | pyrrolidine-1-carboxylic acid [4-(4-amino-3-fluorophenoxy)pyridin-2-yl]amide | 90 mg | NC1=C(C=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=C1)F | C16H17FN4O2
solvent | acetonitrile | 4.3 ml | C(C)#N | C2H3N
solvent | acetonitrile | 4.0 ml | C(C)#N | C2H3N
solvent | diethyl ether | C(C)OCC | C4H10O
product | Pyrrolidine-1-carboxylic acid {4-[3-fluoro-4-(3-phenylacetylthioureido)phenoxy]pyridin-2-yl}amide | 18 mg, 13% | FC=1C=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=CC1NC(=S)NC(CC1=CC=CC=C1)=O | C25H24FN5O3S
